US07205295B2
Intermediate 86: 2-Oxo-2,3-dihydro-benzooxazole-5-carbaldehyde.
To a 0° C. solution of methanol (50 mL) and 5-formyl-2-hydroxy-benzamide (Reich et al. J. Med. Chem., 2000;43(9):1670–1683) (2.0 g, 12.11 mmol) was added potassium hydroxide (1.35 g, 24.22 mmol) and then iodobenzene diacetate (3.90 g, 12.11 mmol). The reaction was stirred at 0° C. for 1 hour, then diluted with ethyl acetate (200 mL) and carefully acidified to pH 2 with 1N HCl. The organic layer was then washed with sodium chloride (2×50 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure. This was used in the next step without purification. MS: M+−1=162.0 Da.

reactant | 5-formyl-2-hydroxy-benzamide | 12.11 mmol, 2.0 g | C(=O)C=1C=CC(=C(C(=O)N)C1)O | C8H7NO3
reactant | potassium hydroxide | 24.22 mmol, 1.35 g | [OH-].[K+]
reactant | iodobenzene diacetate | 12.11 mmol, 3.90 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | HCl | 1N | Cl | ClH
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 mL | CO | CH4O
product | 2-Oxo-2,3-dihydro-benzooxazole-5-carbaldehyde | O=C1OC2=C(N1)C=C(C=C2)C=O | C8H5NO3
